US06313122B1
A. N1-(4-Methoxybenzoyl)-N2-(4-ethylbenzoyl)-4-(tert-butyldimethylsilyloxy)-1,2-benzenediamine
Using the procedure described in Example 68, Part A, N1-(4-methoxybenzoyl)-4-(tert-butyldimethylsilyloxy)-1,2-benzenediamine (300 mg, 0.81 mmol) was reacted with 4-ethylbenzoyl chloride (0.13 mL, 0.89 mmol) to yield 360 mg (88%) of the title compound as a white solid.

reactant | N1-(4-methoxybenzoyl)-4-(tert-butyldimethylsilyloxy)-1,2-benzenediamine | 0.81 mmol, 300 mg | COC1=CC=C(C(=O)NC=2C(=CC(=CC2)O[Si](C)(C)C(C)(C)C)N)C=C1 | C20H28N2O3Si
reactant | 4-ethylbenzoyl chloride | 0.89 mmol, 0.13 mL | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
product | N1-(4-Methoxybenzoyl)-N2-(4-ethylbenzoyl)-4-(tert-butyldimethylsilyloxy)-1,2-benzenediamine | 360 mg, 88% | COC1=CC=C(C(=O)NC=2C(=CC(=CC2)O[Si](C)(C)C(C)(C)C)NC(C2=CC=C(C=C2)CC)=O)C=C1 | C29H36N2O4Si
